US08076488B2
To an ice bath cooled solution of 5-hydroxynicotinic acid methyl ester (5.00 g, 32.65 mmol) in DMF (20 mL) was added sodium hydride (0.78 g, 32.65 mmol). The reaction mixture was stirred at room temperature for 2 hours, and 2,3-difluoro-4-nitrobenzene (5.12 g, 29.68 mmol) was added, and the reaction mixture was stirred at room temperature. After 3 hours the solvent was removed under reduced pressure, and the residue was partitioned between EtOAC (300 mL) and H2O (150 mL). The aqueous layer was extracted with EtOAc (100 mL), and the combined organic layers were dried over Na2SO4, filtered, and the filtrate removed under reduced pressure. The crude product was purified by column chromatography eluted with 50 to 75% EtOAc/Hex to give 2.4 g (28%) of 5-(4-nitro-3-fluorophenoxy)nicotinic acid methyl ester. 1H-NMR (CD3OD) δ 9.05 (d, J=1.8 Hz, 1H), 8.70 (d, J=2.7 Hz, 1H), 8.31 (dd, J=2.4, 10.5 Hz, 1H), 8.15-8.14 (m, 1H), 9.06 (dd, J=1.5, 2.1 Hz, 1H), 7.40 (dd, J=8.1, 9.0 Hz, 1H), 3.97 (s, 3H); MS LC-MS [M+H]+=293.1; RT=3.15 min.

reactant | 5-hydroxynicotinic acid methyl ester | 32.65 mmol, 5.00 g | COC(C1=CN=CC(=C1)O)=O | C7H7NO3
reactant | sodium hydride | 32.65 mmol, 0.78 g | [H-].[Na+]
reactant | 2,3-difluoro-4-nitrobenzene | 29.68 mmol, 5.12 g | FC1=CC=CC(=C1F)[N+](=O)[O-] | C6H3F2NO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-(4-nitro-3-fluorophenoxy)nicotinic acid methyl ester | 2.4 g, 28% | COC(C1=CN=CC(=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])F)=O | C13H9FN2O5
